US05652205
EXAMPLE I: Digeranyl Succinate
Synthesis (c): A mixture of geraniol and nerol (approximately 70:30 by weight) in the amount of 94.86 g (0.615 mol) and succinic anhydride in the amount of 20.51 g (0.205 mol) are combined at room temperature. The mixture is heated to 140° C. for 6 h while water is removed using an argon sparge. After cooling to room temperature, the mixture is placed in a Kugelrohr oven and concentrated at 80°-85° C. for 5.5 h. Purity of the product is determined by thin layer chromatography and the structure confirmed by 13C and 1H NMR.

reactant | geraniol | CC(C)=CCC\C(\C)=C\CO | C10H18O
reactant | nerol | OC\C=C(/CCC=C(C)C)\C | C10H18O
reactant | succinic anhydride | C1(CCC(=O)O1)=O | C4H4O3
solvent | water | O | H2O
product | Digeranyl Succinate | C(CCC(=O)OC\C=C(/C)\CCC=C(C)C)(=O)OC\C=C(/C)\CCC=C(C)C | C24H38O4
